US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.114 g, 0.412 mmol) was reacted with N-(2-azidoethyl)decanamide (0.099 g, 0.412 mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-decanamidoethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (400 MHz, CDCl3) δ 7.23 (s, 1H), δ 6.57 (s, 1H), δ 6.43 (s, 1H), δ 6.09 (s, 2H), δ 4.38 (s, 2H), δ 3.67 (s, 2H), δ 2.61 (t, 2H), δ 2.08 (s, 2H), δ 2.08 (t, 2H), δ 1.42 (m, 15H), δ 1.17 (m, 14H), δ 0.79 (t, 3H) ppm; 13C NMR (100 MHz, CDCl3) δ 174.2, 149.7, 148.4, 138.8, 121.9, 106.6, 84.9, 49.5, 39.5, 36.7, 32.1, 31.3, 30.6, 29.9, 29.7, 29.6, 29.5, 29.5, 29.3, 29.0, 28.3, 28.2, 25.9, 25.6, 25.5, 22.9, 14.3 ppm; HRMS (ESI) calcd for C27H47N7O3 (M+) 517.3740. found 517.3736, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)decanamide hydrochloride (0.137 g, 73% yield). 1H NMR (300 MHz, CD3OD) δ 8.55 (s, 1H), δ 6.53 (s, 1H), 4.72 (s, 2H), δ 3.75 (s, 2H), 2.89 (s, 2H), δ 2.54 (t, 2H), δ 2.16 (t, 2H), δ 1.81 (s, 2H), δ 1.69 (s, 2H), δ 1.49 (m, 4H), δ 1.28 (s, 12H), δ 0.89 (t, 3H) ppm; 13C NMR (75 MHz, CD3OD) δ 175.7, 147.3, 128.5, 127.6, 125.1, 120.8, 108.6, 108.4, 105.6, 63.1, 59.3, 52.5, 48.6, 48.3, 48.1, 47.9, 47.7, 47.5, 57.3, 38.7, 336.6, 35.8, 36.6, 35.8, 31.8, 30.6, 29.4, 29.3, 29.3, 29.2, 28.0, 27.8, 27.7, 25.8, 24.1, 23.9, 23.3, 22.6 ppm; HRMS (ESI) calcd for C22H39N7O (M+) 417.3216. found 417.3209.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.412 mmol, 0.114 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)decanamide | 0.412 mmol, 0.099 g | N(=[N+]=[N-])CCNC(CCCCCCCCC)=O | C12H24N4O
product | tert-butyl 2-amino-4-(5-(1-(2-decanamidoethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNC(CCCCCCCCC)=O)C(=O)OC(C)(C)C | C27H47N7O3
